US05302593
a) Preparation of 8-piperidinyloctylphthalimide
8Bromooctylphthalimide (517 mg; 2.0 mmoles) and piperazine (0.40 ml; 4.0 mmoles) were dissolved in anhydrous ethyl ether (5 ml). Reaction times and process as per Example 1.

reactant | 8Bromooctylphthalimide | 2.0 mmoles, 517 mg | BrCCCCCCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C16H20BrNO2
reactant | piperazine | 4.0 mmoles, 0.40 ml | N1CCNCC1 | C4H10N2
reactant | ethyl ether | 5 ml | C(C)OCC | C4H10O
product | 8-piperidinyloctylphthalimide | N1(CCCCC1)CCCCCCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C21H30N2O2
